US03970704
To 40 ml. of ice cold isopropanol is added 2.49 g. of acetyl chloride. The resulting solution is stirred at 0° for 15 min. and 1.0 g. of trans isopropyl 3,7,11-trimethyldodeca 2,4,10-trienoate added. The solution is stirred for 1 hour at 0° and for 48 hours at 25°. Solvent is removed under reduced pressure and the concentrate taken up in hexane. The hexane solution is washed with water until the aqueous wash is neutral and then with brine. The solution is dried over calcium sulfate and solvent evaporated to yield trans isopropyl 11-chloro-3,7,11-trimethyldodeca-2,4-dienoate.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | trans isopropyl 3,7,11-trimethyldodeca 2,4,10-trienoate | CC(=CC(=O)OC(C)C)\C=C\CC(CCC=C(C)C)C | C18H30O2
product | trans isopropyl 11-chloro-3,7,11-trimethyldodeca-2,4-dienoate | ClC(CCCC(C/C=C/C(=CC(=O)OC(C)C)C)C)(C)C | C18H31ClO2
